Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]=[C:4]([H:5])/[C:6](=[C:7]/[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])/[C:6](=[C:7]/[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.97858108
[O:1][C:2]#[C:3][C:8]([H:9])([H:10])[H:11].[O:4]=[C:5]([H:6])[H:7]>>[O:1]=[C:2]=[C:3]([O:4][C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-0.274726108791
[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[C:6]([H:7])=[C:8]([H:9])[H:10].[H:1][C:2]([H:3])=[C:4]=[O:5],0.4042958456409999
[C:1]#[C:2].[O:3]=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]#[C:2][O:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-2.73624518959
[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])[O:8][C:9][H:10]>>[C:3]([H:4])[H:5].[O:1]=[C:2]=[C:6]([H:7])[O:8][C:9][H:10],3.72517408944
[H:1][O:2][C:3][O:4][C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3][O:4][C:5]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:6],4.42907433016
[C:11][H:12].[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[H:10]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11][H:12],-4.73653662436
[C:6](=[O:7])=[C:8]([H:9])[H:10].[O:1]=[C:2]=[C:3]([H:4])[H:5]>>[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6](=[O:7])[C:8]([H:9])[H:10],1.12128639562
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13]>>[H:8].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:9][C:10]([H:11])([H:12])[H:13],1.84958340782
[C:9][H:10].[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])[H:8]>>[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9][H:10],-4.8053346969
[C:1]/[C:2]([H:3])=[C:4](\[O:5][H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:1].[C:2]([H:3])=[C:4]([O:5][H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],5.50986112944
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([O:8][H:9])=[C:10]([H:11])[H:12]>>[C:7]([O:8][H:9])=[C:10]([H:11])[H:12].[H:1][C:2][O:3][C:4]([H:5])[H:6],4.35053389119
[H:1].[O:2][O:3][C@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][O:3][C@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.67818495831
[H:1][C:2]=[C:3]([O:4][H:5])[C:6](=[O:7])[C:9]([H:10])[H:11].[H:8]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([O:7][H:8])=[C:9]([H:10])[H:11],-3.84819050022
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8](=[O:9])[H:10]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]=[O:9].[H:10],4.01707784182
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:7],1.93307670956
[O:1]=[C:2]1[C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]1([H:11])[H:12]>>[O:1]=[C:2]([C:3]([H:4])[H:5])[C:10]([C:7]([O:6])([H:8])[H:9])([H:11])[H:12],3.13464235256
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[C:11]([H:12])[H:13].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10],7.588626060469999
[C:1][C:2]([H:3])([H:4])[C:5]([C:6][O:7][H:8])=[C:9][H:10]>>[C:1][C:2]([H:3])([H:4])[C:5]#[C:9][H:10].[C:6][O:7][H:8],0.9845781288
[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.65540281116
[C:8]([H:9])[C:10]([H:11])([H:12])[O:13][H:14].[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[O:13][H:14],-1.9615347
[C:10][H:11].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])=[C:7]([H:8])[H:9]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])[C:7]([H:8])([H:9])[C:10][H:11],-2.5155768217400003
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C@:7]([H:8])([C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16],4.59321476199
[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]#[C:4][H:5]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.87100349821
[H:1][C:2][O:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:1][C:2]=[O:3],1.4967349287399998
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][O:10]>>[C:1].[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][O:10],4.03065482
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[O:11][H:12]>>[C:6]([H:7])([H:8])=[C:9]([H:10])[O:11][H:12].[H:1][C:2]#[C:3][O:4][H:5],-0.946782372
[H:1][C:2]([O:3][C:4]=[C:5]([H:6])[H:7])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:8]>>[H:1][C:2]([O:3][C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-2.76529955763
